US07199243B2
10% Palladium on carbon (53 mg, 50 wt %) was added to a solution of 2-methyl-2-{3-[1-(4-trifluoromethyl-benzylcarbamoyl)-piperidin-3-yl]-phenoxy}-propionic acid benzyl ester (111 mg, 0.226 mmol) in methanol (5 mL) and the resulting mixture hydrogenated at 50 psi for 4 h. The reaction mixture was filtered through a plug of celite and the celite plug washed thoroughly with ethyl acetate. The combined filtrates were concentrated under reduced pressure. The resultant oil was flash chromatographed with 2% methanol/chloroform to provide 46.6 mg (51%) of 2-methyl-2-{3-[1-(4-trifluoromethyl-benzylcarbamoyl)-piperidin-3-yl]-phenoxy}-propionic acid as a clear oil.

reactant | 2-methyl-2-{3-[1-(4-trifluoromethyl-benzylcarbamoyl)-piperidin-3-yl]-phenoxy}-propionic acid benzyl ester | 0.226 mmol, 111 mg | C(C1=CC=CC=C1)OC(C(C)(OC1=CC(=CC=C1)C1CN(CCC1)C(NCC1=CC=C(C=C1)C(F)(F)F)=O)C)=O | C31H33F3N2O4
catalyst | Palladium on carbon | 53 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 2-methyl-2-{3-[1-(4-trifluoromethyl-benzylcarbamoyl)-piperidin-3-yl]-phenoxy}-propionic acid | 46.6 mg, 51% | CC(C(=O)O)(C)OC1=CC(=CC=C1)C1CN(CCC1)C(NCC1=CC=C(C=C1)C(F)(F)F)=O | C24H27F3N2O4
